US06503903B1
b) 5-Benzyloxy-1-methyl-2-(methylaminomethyl)indole
According to the procedure of Preparation 1(b), except substituting 5-benzyloxy-N,1-dimethylindole-2-carboxamide (37.4 g, 126.7 mmole) for the N,1-dimethylindole-2-carboxamide, the title compound (24.5 g, 69%) was prepared as a white solid: MS (ES) m/e 281 (M+H)+.

reactant | 5-benzyloxy-N,1-dimethylindole-2-carboxamide | 126.7 mmole, 37.4 g | C(C1=CC=CC=C1)OC=1C=C2C=C(N(C2=CC1)C)C(=O)NC | C18H18N2O2
reactant | N,1-dimethylindole-2-carboxamide | CNC(=O)C=1N(C2=CC=CC=C2C1)C | C11H12N2O
product | 5-Benzyloxy-1-methyl-2-(methylaminomethyl)indole | 24.5 g, 69% | C(C1=CC=CC=C1)OC=1C=C2C=C(N(C2=CC1)C)CNC | C18H20N2O
